US06518423B1
N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamide
200 mg of 8-amino-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was suspended in 10 ml of ethyl acetate. After adding 1 ml of acetic anhydride, the reaction mixture was subjected to ultrasonication. The crystals thus precipitated were filtered and washed with diethyl ether to thereby give 206 mg of the title compound as yellow crystals.

reactant | 8-amino-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 200 mg | NC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C12H12N4OS
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamide | 206 mg | COCN1C2=C(SC3=C1C=C(C=C3)NC(C)=O)N=CC=N2 | C14H14N4O2S
